US08222248B2
To a solution of 4-amino-3-nitrobenzoic acid (1.82 g) in DMF (20 mL) was added HOBT (1.49 g) and EDCI (2.1 g). After stirring at room temperature for 10 min, 3,4-dimethylphenylamine (1.2 g) and DIPEA (5.3 mL) were added. The solution was stirred at room temperature for 18 h then the mixture was partioned between water and EtOAc The aqueous layer was extracted with EtOAc. The combined organic layers were washed with water, brine, dried, filtered and concentrated. The residue was purified by recrystallization from EtOAc and gave 4-amino-N-(3,4-dimethylphenyl)-3-nitrobenzamide as a yellow solid. MS (ESI)m/z 286 (M+H).

reactant | 4-amino-3-nitrobenzoic acid | 1.82 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | HOBT | 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3,4-dimethylphenylamine | 1.2 g | CC=1C=C(C=CC1C)N | C8H11N
reactant | DIPEA | 5.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-amino-N-(3,4-dimethylphenyl)-3-nitrobenzamide | NC1=C(C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=C1)[N+](=O)[O-] | C15H15N3O3
